US04299970
Methyl lithium (7 ml, 2 M solution in ether) was injected, under nitrogen, into a stirred solution of 2-n-heptyl-1-n-octylpiperidin-3-one (3.4 g) in dry ether (100 ml) at -78°. The mixture was allowed to warm gradually to room temperature. After 3 hours, thin layer chromatography indicated that some starting material remained. The solution was cooled to -78° and methyl lithium (3 ml, 2 M solution in ether) was injected. The mixture was allowed to warm gradually to room temperature and was allowed to stand for 2 days. Water (10 ml) was added dropwise and the ether phase was separated, dried over magnesium sulphate and evaporated in vacuo. The product was purified by column chromatography to give 2-n-heptyl-3-hydroxy-3-methyl-1-n-octylpiperidine as a yellow gum (1.47 g, 41% yield).

reactant | Methyl lithium | 2 M, 7 ml | C[Li]
reactant | 2-n-heptyl-1-n-octylpiperidin-3-one | 3.4 g | C(CCCCCC)C1N(CCCC1=O)CCCCCCCC | C20H39NO
reactant | methyl lithium | 2 M, 3 ml | C[Li]
reactant | Water | 10 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-n-heptyl-3-hydroxy-3-methyl-1-n-octylpiperidine | 1.47 g, 41% yield | C(CCCCCC)C1N(CCCC1(C)O)CCCCCCCC | C21H43NO
